US07482456B2
Step 1: 8-bromoquinoline-6-carboxylic Acid
4-Amino-3-bromo-benzoic acid (1 eq) and glycerol (2.4 eq) was added to sulfuric acid (6.4M, reaction conc. 0.6M) at 0° C. After 15 min, the bath was removed and 3-nitro-phenylsulfonic acid sodium salt (1.3 eq) was added portionwise. The reaction mixture was heated gradually until exothermic reaction started (between 110-140° C.), the internal temperature was maintained below 170° C. for 1 h. The reaction mixture was cooled to 50° C. and poured slowly into NH4OH-ice (2:1). The title product isolated by filtration, dissolved in warm 5% NH4OH/MeOH and diluted with CH2Cl2. This solution was filtered through silica gel eluting with (NH4OH, MeOH, CH2Cl2, 3:30:70). The residue was stirred in EtOH and the title product isolated by filtration.

reactant | 4-Amino-3-bromo-benzoic acid | 1 eq | NC1=C(C=C(C(=O)O)C=C1)Br | C7H6BrNO2
reactant | glycerol | 2.4 eq | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 6.4M | S(O)(O)(=O)=O | H2O4S
reactant | 3-nitro-phenylsulfonic acid sodium salt | 1.3 eq | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
product | 8-bromoquinoline-6-carboxylic Acid | BrC=1C=C(C=C2C=CC=NC12)C(=O)O | C10H6BrNO2
